US07429583B2
a) tert-butyl [1,1-dimethyl-3-(2-oxo-benzooxazol-3-yl)-propyl]-carbamate
4.0 g (29.6 mmol) benzoxazol-2-one are dissolved in 40 mL DMPU and cooled with an ice bath. Under protective gas 897 mg (95%; 35.5 mmol) sodium hydride are added batchwise to this solution. The reaction mixture is heated to ambient temperature and then stirred for another hour. 9.85 g (44.4 mmol) tert-butyl (3-amino-1,1-dimethyl-propyl)-carbamate and 1.97 g (5.3 mmol) tetrabutylammonium iodide are added and the mixture is stirred overnight. The reaction is stopped by the careful addition of sodium hydrogen carbonate solution. Ethyl acetate is added, the aqueous phase is separated off and extracted repeatedly with ethyl acetate. The combined organic phases are washed with sodium chloride solution, dried with sodium sulphate and evaporated down. Purification of the residue by column chromatography (silica gel; petroleum ether/ethyl acetate=7:3) yields the desired product in the form of an oil. Yield 4.1 g (43%); mass spectroscopy: [M+H]+=321.

reactant | benzoxazol-2-one | 29.6 mmol, 4.0 g | O1C(NC2=C1C=CC=C2)=O | C7H5NO2
reactant | sodium hydride | [H-].[Na+]
reactant | tert-butyl (3-amino-1,1-dimethyl-propyl)-carbamate | 44.4 mmol, 9.85 g | NCCC(C)(C)NC(OC(C)(C)C)=O | C10H22N2O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | DMPU | 40 mL | CN1CCCN(C1=O)C | C6H12N2O
catalyst | tetrabutylammonium iodide | 5.3 mmol, 1.97 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl [1,1-dimethyl-3-(2-oxo-benzooxazol-3-yl)-propyl]-carbamate | CC(CCN1C(OC2=C1C=CC=C2)=O)(C)NC(OC(C)(C)C)=O | C17H24N2O4
